US08426420B2
(v) 4-((S)-4-tert-Butoxycarbonyl-2-{[5-[2-((S)-2-carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 2.24 g 4-((S)-2-{[5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester in 25 ml ethyl acetate were added under argon 0.5 g Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (3 bar) for 24 h. The suspension was filtered over a plug of Celite® and washed with ethyl acetate. The crude product obtained after evaporation of the solvent was used in the subsequent reaction. Yield: 1.80 g colorless foam.

reactant | 4-((S)-2-{[5-[2-((S)-2-Benzyloxycarbonyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | 2.24 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)C1=CC(=CC=C1)F)=O | C40H49FN6O10
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-((S)-4-tert-Butoxycarbonyl-2-{[5-[2-((S)-2-carboxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(=O)O)C1=CC(=CC=C1)F)=O | C33H43FN6O10
